US08802688B2
6-(2-tert-butoxy-2-oxoethoxy)-2-chloroquinoline-3-carboxylic acid and 1-isopropyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(1H)-one were coupled by a method analogous to that described for Example 1 to give tert-butyl 2-(2-chloro-3-(1-isopropyl-7-oxo-1,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)quinolin-6-yloxy)acetate. This material (30 mg, 0.053 mmol) was suspended in ammonia (2 mL, 10 mmol, 7 M in methanol) and stirred at room temperature for 18 hours. The reaction was concentrated to give the title compound (27 mg, 100%). +ESI (M+H) 510.4.

reactant | 6-(2-tert-butoxy-2-oxoethoxy)-2-chloroquinoline-3-carboxylic acid | C(C)(C)(C)OC(COC=1C=C2C=C(C(=NC2=CC1)Cl)C(=O)O)=O | C16H16ClNO5
reactant | 1-isopropyl-4,6-dihydrospiro[indazole-5,4′-piperidin]-7(1H)-one | C(C)(C)N1N=CC=2CC3(CCNCC3)CC(C12)=O | C14H21N3O
product | tert-butyl 2-(2-chloro-3-(1-isopropyl-7-oxo-1,4,6,7-tetrahydrospiro[indazole-5,4′-piperidine]-1′-ylcarbonyl)quinolin-6-yloxy)acetate | ClC1=NC2=CC=C(C=C2C=C1C(=O)N1CCC2(CC1)CC=1C=NN(C1C(C2)=O)C(C)C)OCC(=O)OC(C)(C)C | C30H35ClN4O5
